US06159901
Production of 4-methyl-6-[3-(trifluoromethyl)phenoxy] picolinic acid, (2,2,3,3,3-pentafluoropropylidene] hydrazide (compound No. I-51)
4-methyl-6-[3-(trifluoromethyl)phenoxy] picolinic acid hydrazide (0.38 g, 0.0012 mol) was dissolved in 5 ml of acetic acid. The obtained solution was mixed with 2,2,3,3,3-pentafluoropropionaldehyde monohydrate (0.40 g, 0.0012×2 mol), and then the resultant mixture was stirred at 80° C. for 3 hours. Thereafter, a chilled water was poured into the obtained reaction solution which was then distributed in ethyl acetate-water. The organic phase separated from the solution was washed with water and then dried with anhydrous sodium sulfate. After distilling off the solvent from the dried product, the obtained distillation residues were purified by silica gel column chromatography (eluting solution: ethyl acetate/hexane), thereby obtaining an aimed product.

reactant | 4-methyl-6-[3-(trifluoromethyl)phenoxy] picolinic acid hydrazide | 0.0012 mol, 0.38 g | CC1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)C(=O)NN | C14H12F3N3O2
reactant | 2,2,3,3,3-pentafluoropropionaldehyde monohydrate | 2 mol, 0.40 g | O.FC(C=O)(C(F)(F)F)F
reactant | water | O | H2O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 4-methyl-6-[3-(trifluoromethyl)phenoxy] picolinic acid, (2,2,3,3,3-pentafluoropropylidene] hydrazide | FC(C=NNC(C1=NC(=CC(=C1)C)OC1=CC(=CC=C1)C(F)(F)F)=O)(C(F)(F)F)F | C17H11F8N3O2
